US06852713B2
Step 4C: 2-[4-(Methanesulfonylamino-methyl)-phenyl]-pent-4-enoic acid
To a stirred solution of 2-[4-(methanesulfonylamino-methyl)-phenyl]-pent-4-enoic acid methyl ester (1.85 g, 6.55 mmol) in a 1:1 mixture of tetrahydrofuran (25 cm3) and methanol (25 cm3) at ambient temperature under an atmosphere of dry nitrogen was added lithium hydroxide hydrate (1.16 g, 26.2 mmol) dissolved in water (25 cm3). The mixture was stirred at ambient temperature for 16 hours and volatile fractions removed in vacuo to leave an aqueous mixture. The mixture was diluted with water (25 cm3) and acidified with 1 N hydrochloric acid to pH 1.0. The aqueous mixture was extracted with dichloromethane (3×30 cm3), The combined dichloromethane extracts washed with brine (1×30 cm3), dried over sodium sulfate, vacuum filtered and the filtrate volatile fractions removed in vacuo to a colorless oil (1.68 g, 90.7%) with a negative ion ESI (M−H)−282.1.

reactant | 2-[4-(methanesulfonylamino-methyl)-phenyl]-pent-4-enoic acid methyl ester | 6.55 mmol, 1.85 g | COC(C(CC=C)C1=CC=C(C=C1)CNS(=O)(=O)C)=O | C14H19NO4S
reactant | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
reactant | lithium hydroxide hydrate | 26.2 mmol, 1.16 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | 25 cm3 | O | H2O
solvent | water | 25 cm3 | O | H2O
solvent | methanol | 25 cm3 | CO | CH4O
product | 2-[4-(Methanesulfonylamino-methyl)-phenyl]-pent-4-enoic acid | CS(=O)(=O)NCC1=CC=C(C=C1)C(C(=O)O)CC=C | C13H17NO4S
